US07399759B2
N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]benzenesulfonamide
2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (400 mg, 1.0 mmol) and benzenesulfonyl chloride (300 mg, 1.7 mmol) were dissolved in ethyl acetate (10 ml) and water (5 ml), and sodium hydrogen carbonate (225 mg, 2.6 mmol) was added thereto. The mixture was stirred at room temperature for 2 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (1:1, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (162 mg, 38%) as white crystals.

reactant | 2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.0 mmol, 400 mg | FC(C(=O)O)(F)F.NCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | benzenesulfonyl chloride | 1.7 mmol, 300 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydrogen carbonate | 2.6 mmol, 225 mg | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]benzenesulfonamide | 162 mg, 38% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CNS(=O)(=O)C2=CC=CC=C2 | C20H15N3O3S2
